US07399759B2
2-(6-Propylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.67 g, 4.0 mmol), 2-cyano-6-propylthiopyridine (0.72 g, 4.0 mmol), triethylamine (0.84 ml, 6.0 mmol) and toluene (50 ml) was refluxed for 48 hrs as described in Example 1. The reaction mixture was concentrated under reduced pressure and the residue was recrystallized from ethanol to give the titled compound (0.46 g, 37%) as crystals.

reactant | methyl thiosalicylate | 4.0 mmol, 0.67 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-propylthiopyridine | 4.0 mmol, 0.72 g | C(#N)C1=NC(=CC=C1)SCCC | C9H10N2S
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Propylthio-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.46 g, 37% | C(CC)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2OS2
